US09034850B2
Step A. 5-(4-benzyl-piperazin-1-yl)-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-1H-pyrimidine-2,4-dione
5-bromo-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-1H-pyrimidine-2,4-dione (1.50 g, 3.94 mmol), 1-benzyl-piperazine (5.5 mL, 31.5 mmol), and acetonitrile (1 mL) were placed in a microwave vessel and heated at 120° C. for 1.5 hr by microwave irradiation with stirring. Following concentration, the residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate/dichloromethane, 1/2/1) and dried in a vacuum to afford the 1.48 g of the compound as a white solid (yield 79%). 1H NMR (300 MHz, CDCl3) δ 2.15 (2H, m), 2.31 (3H, s), 2.50 (2H, m), 2.78 (2H, m), 3.52 (3H, s), 3.58 (2H, m), 5.36 (2H, s), 7.19-7.41 (7H, m), 7.53 (1H, d)

reactant | 5-bromo-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-1H-pyrimidine-2,4-dione | 3.94 mmol, 1.50 g | BrC=1C(NC(N(C1C)CC1=C(C=CC=C1C(F)(F)F)F)=O)=O | C13H9BrF4N2O2
reactant | 1-benzyl-piperazine | 31.5 mmol, 5.5 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 5-(4-benzyl-piperazin-1-yl)-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-1H-pyrimidine-2,4-dione | 1.48 g, yield 79% | C(C1=CC=CC=C1)N1CCN(CC1)C=1C(NC(N(C1C)CC1=C(C=CC=C1C(F)(F)F)F)=O)=O | C24H24F4N4O2
